US05807883
Under argon atmosphere and water cooling, 43 ml of a hexane solution of 1.6M n-butyl lithium was added dropwise to a solution of 5.75 g of N-(3-methoxyphenyl)-2,2-dimethyl-propaneamide [synthesized according to R. M. Soll et al., Journal of Organic Chemistry, 53, 2844 (1988)] in 100 ml of tetrahydrofuran. After the mixture was stirred under ice cooling for 2 hours, 18 ml of diethyl oxalate was added to the mixture, and the resulting mixture was stirred at room temperature for additional 2 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. After the extract was washed with water and dried, the solvent was removed by evaporation. The residue was purified by silica gel column chromatography [hexane-ethyl acetate (5:1)] and recrystallized from ethyl acetate-hexane to afford 2.86 g of ethyl 2-(2,2-dimethylpropanoylamino)-6-methoxybenzene-α-oxoacetate as lightly yellow crystals. Melting point: 99° to 100° C.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | N-(3-methoxyphenyl)-2,2-dimethyl-propaneamide | 5.75 g | COC=1C=C(C=CC1)NC(C(C)(C)C)=O | C12H17NO2
reactant | diethyl oxalate | 18 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | hexane | 43 ml | CCCCCC | C6H14
product | ethyl 2-(2,2-dimethylpropanoylamino)-6-methoxybenzene α-oxoacetate | 2.86 g | C(C)C1=C(C=CC=C1OC)NC(C(C)(C)C)=O.O=CC(=O)[O-] | InChI=1S/C14H21NO2.C2H2O3/c1-6-10-11(8-7-9-12(10)17-5)15-13(16)14(2,3)4;3-1-2(4)5/h7-9H,6H2,1-5H3,(H,15,16);1H,(H,4,5)/p-1
